US04476137
A solution of 3-hydrazino-1-propanol (18.0 g.) and triethylamine (20.2 g.) in dioxane (300 ml.) was treated dropwise with a solution of 2-chlorobenzoxazole (30.8 g.) in dioxane (40 ml.) at 10° C. The reaction was then stirred at room temperature overnight. The precipitate was filtered and the filtrate concentrated in vacuo. The residue was crystallized from boiling benzene to give 4-[1-(2-benzoxazolyl)hydrazino]butanol, m.p. 87°-90° C.

reactant | 3-hydrazino-1-propanol | 18.0 g | N(N)CCCO | C3H10N2O
reactant | triethylamine | 20.2 g | C(C)N(CC)CC | C6H15N
reactant | 2-chlorobenzoxazole | 30.8 g | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
reactant | dioxane | 300 ml | O1CCOCC1 | C4H8O2
reactant | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | 4-[1-(2-benzoxazolyl)hydrazino]butanol | O1C(=NC2=C1C=CC=C2)N(N)CCCCO | C11H15N3O2
